US09388189B2
c) 3-(Difluoromethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol
3-Bromo-5-(difluoromethyl)phenol (300 mg, 1.35 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.37 g, 5.39 mmol), potassium acetate (660 mg, 6.73 mmol), bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (165 mg, 0.2 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (112 mg, 0.2 mmol) were suspended in dioxane (12 ml) and heated to 90° C. overnight. After usual work-up with water and ethyl acetate, the reaction crude was purified by reverse phase chromatography (C-18 silica from Waters®, water/1:1 acetonitrile-methanol as eluents [0.1% v/v formic acid buffered] 0% to 100%) to give 363 mg (95% yield) of the title compound as a mixture of the boronate ester and the boronic acid. Purity 95%.

reactant | 3-Bromo-5-(difluoromethyl)phenol | 1.35 mmol, 300 mg | BrC=1C=C(C=C(C1)C(F)F)O | C7H5BrF2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 5.39 mmol, 1.37 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 6.73 mmol, 660 mg | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.2 mmol, 112 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Difluoromethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 363 mg, 95% yield | FC(C=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)O)F | C13H17BF2O3
